US05959107
A mixture solution of 4-(5-isoquinolylsulfonyl)aniline 300 mg (1.1 mmol), 2,5-dimethoxytetrahydrofuran 160 mg (1.2 mmol) and acetic acid 2 ml was heated and refluxed for 1 hour. Water was added to the reaction solution, and the solution was extracted with ethyl acetate. The organic layer was washed with saturated sodium hydrogencarbonate and saturated sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was recrystalized from ethyl acetate-hexane to give 5-[4-(pyrrole-1-yl)phenylsulfonyl]isoquinoline 280 mg (83.0%).

reactant | 4-(5-isoquinolylsulfonyl)aniline | 1.1 mmol, 300 mg | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)C1=CC=C(N)C=C1 | C15H12N2O2S
reactant | 2,5-dimethoxytetrahydrofuran | 1.2 mmol, 160 mg | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 5-[4-(pyrrole-1-yl)phenylsulfonyl]isoquinoline | 280 mg, 83.0% | N1(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C1=C2C=CN=CC2=CC=C1 | C19H14N2O2S
